* C:\Users\vines\OneDrive - Durham University\Year 4\Engineering_Y4\Capstone Project\mypythonlibrary\power_converter\ltspice_circuits\buck_circuit.asc
V1 N001 0 28
L1 N002 N003 10m
C1 N003 0 7.262µ
R1 N003 0 15
V2 N004 N002 PULSE(0 5 0 0 0 0.00000554285 0.0000095238)
D1 0 N002 UPSC600
M1 N001 N004 N002 N002 BSC060N10NS3
.model D D
.lib C:\Users\vines\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\vines\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 50m
.backanno
.end
