* C:\Users\vines\OneDrive - Durham University\Year 4\Engineering_Y4\Capstone Project\mypythonlibrary\power_converter\ltspice_circuits\buck_circuit.asc
V1 N001 0 50.0
L1 N002 N003 100u
C1 N003 0 166.667u
R1 N003 0 10.0
V2 N004 N002 PULSE(0 5 0 0 0 0.00013333333333333334 8.333333333333333e-05)
D1 0 N002 UPSC600
M1 N001 N004 N002 N002 BSC060N10NS3
.model D D
.lib C:\Users\vines\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\vines\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 50m
.backanno
.end
